US06599925B2
[1-Bromo-6-(3-pentyl-benzofuran-2-yl)-naphthalen-2-yloxy]-acetic acid ethyl ester
Following the procedure described in Method B, Step 5 of Example 1, the title compound was prepared from 1-bromo-6-(3-pentyl-benzofuran-2-yl)-naphthalen-2-ol (1.5 g, 3.66 mmol), cesium carbonate (2.4 g, 7.34 mmol), ethyl bromoacetate (0.48 mL, 4.3 mmol) in acetone (35 mL). The title compound was obtained as an off-white solid (1.6 g), mp 93-95° C. Mass spectrum (+APCl, [M+H]+) m/z 495. 1HNMR (300 MHz, DMSO-d6): δ8.34 (s, 1H), 8.24 (d, 1H, J=9.0 Hz), 8.12 (d, 1H, J=9.1 Hz), 8.06-8.02 (m, 1H), 7.69 (d, 1H, J=7.1 Hz), 7.61 (d, 1H, J=7.7 Hz), 7.48 (d, 1H, J=9.1 Hz), 7.37-7.26 (m, 2H), 5.1 (s, 2H), 4.18 (q, 2H, J=7.1 Hz), 3.01 (t, 2H, J=7.3 Hz), 1.76-1.64 (m, 2H), 1.43-1.26 (m, 4H), 1.22 (t, 3H, J=7.1 Hz), and 0.85-0.79 ppm (m, 3H). Elemental Analysis for C27H27BrO4.1.0H2O: Calculated: C, 63.16; H, 5.69; N, 0.00. Found: C, 62.90; H, 5.19; N, 0.15.

reactant | 1-bromo-6-(3-pentyl-benzofuran-2-yl)-naphthalen-2-ol | 3.66 mmol, 1.5 g | BrC1=C(C=CC2=CC(=CC=C12)C=1OC2=C(C1CCCCC)C=CC=C2)O | C23H21BrO2
reactant | cesium carbonate | 7.34 mmol, 2.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl bromoacetate | 4.3 mmol, 0.48 mL | BrCC(=O)OCC | C4H7BrO2
solvent | acetone | 35 mL | CC(=O)C | C3H6O
product | [1-Bromo-6-(3-pentyl-benzofuran-2-yl)-naphthalen-2-yloxy]-acetic acid ethyl ester | C(C)OC(COC1=C(C2=CC=C(C=C2C=C1)C=1OC2=C(C1CCCCC)C=CC=C2)Br)=O | C27H27BrO4
